Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Haldol / Bactrim / Iodinated Contrast- Oral and IV Dye
 
Attending: ___.
 
Chief Complaint:
Alcohol Withdrawal
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ is a ___ man with a history of chronic ___ use 
disorder and chronic pancreatitis who presented to the ED for 
detox.
  
He states that he has always suffered from alcohol dependence 
but that his wife died 6 months ago, and since he has been 
drinking ___ of vodka daily, more recently 2L. His last drink 
approximately ___ hr prior to presentation to the ED 
electively for EtOH detox. He said he ran out of alcohol and he 
was going to go to the liquor store but that he was sick of all 
of this and instead walked himself to the ED. 
     
He is interested in quitting drinking and requesting inpatient 
detox. Also of note, the patient has opiate use disorder 
maintained with 20MG of Suboxone daily (8mg QAM, 4mg Afternoon, 
8mg QPM), but he reports that someone stole them from him three 
days ago and he last injected day prior to presentation (Heroin 
or Fentanyl).
   
He indicates yesterday he saw worms on the toilet paper, he 
describes 2 narrow, maggot like looking worms but they were not 
moving.
     
Initial VS: ___ pain 98.3 96 143/91 18 97% RA. Patient visibly 
shaking and unwell appearing on arrival. Exam notable for 
tremulous, anxious, RRR, CTAB, Mild diffuse abdominal pain, no 
rebound or guarding. Rectal exam with good tone, no redness, 
irritation, or signs of worms. Labs notable for elevated LFTs 
AST > ALT, serum EtOH of 270 but other serum tox negative. WBCs 
of 3.8 and Hb of 13.2. He was treated with Diazepam CIWA, 
Thiamine, Folate and MVI as well as IVFs before admission to 
medicine. 
 
On the floor, he feels well, said his tremors and shaking has 
been controlled with diazepam and right now he feels comfortable 
and withdrawal symptoms in good control. Denies any withdrawal 
from opiate symptoms.
 
Past Medical History:
- Opiate use disorder on suboxone 
- Alcohol use disorder previous admissions for detox, but never 
completed, prior alcohol withdrawals but no known history of 
alcohol withdrawal seizures
- Depression without prior suicide attempts
- Paranoid delusions
  
 
Social History:
___
Family History:
- Father with ___ abuse, died of overdose
 
Physical Exam:
Vitals: 98.5 PO 134 / 78 R Sitting 69 18 95 Ra 
Pain Scale: ___
General: Patient appears stable, he is seated upright in bed, 
pleasant, polite, respectful and appropriate. No over signs of 
tremulousness or diaphoresis. Alert, oriented and in no acute 
distress. Poorly kept, dirty and foul smelling. 
HEENT: Sclera anicteric, poor dentition, no tongue fasiculations
Neck: supple, JVP low, no LAD appreciated
Lungs: Clear to auscultation bilaterally, moving air well and 
symmetrically, no wheezes, rales or rhonchi appreciated  
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality, no murmurs, rubs or gallops appreciated
Abdomen: soft, non-tender, non-distended, normoactive bowel 
sounds throughout, no rebound or guarding
Ext: Warm, well perfused, full distal pulses, no clubbing, 
cyanosis or edema, no tremors
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly intact in bilateral UE and ___, symmetric

 
Pertinent Results:
notable for WBX 3.8, Hb 13.2, MCV 94. Normal Chem 7 though with 
mild elevation in anion gap to 22. LFTs with AST 295 and ALT 
110, ALP 138, normal TBili and lipase. 

 
Brief Hospital Course:
  
# Acute Alcohol Withdrawal
Patient with acute acohol withdrawal syndrome and seeing worms 
in stool yesterday which could be true but could also be a 
visual hallucination. He did not have ataxia, encephalopathy or 
oculomotor dysfunction to suggest Wernicke. No evidence of 
recent seizures and he has never had alcohol withdrawal seizures 
before. Supportive care and withdrawal medications were 
provided, but the patient stated he was not interested in 
stopping his alcohol use and requested to leave. The patient 
removed his PIV and left the premises, declining further 
discussion, discharge paperwork, or prescriptions.
 
# Opiate use disorder
Chronically maintained on Suboxone though patient reports having 
medications stolen 3 days prior and resorting to IV 
Heroin/Fentanyl in the meantime.
      
# Worms in stool: Patient did not produce a stool sample while 
here for examination
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Buprenorphine-Naloxone Tablet (8mg-2mg) 1 TAB SL BID 
2. Buprenorphine-Naloxone Tablet (2mg-0.5mg) 2 TAB SL Q1500 

 
Discharge Medications:
1.  Buprenorphine-Naloxone Tablet (2mg-0.5mg) 2 TAB SL Q1500  
2.  Buprenorphine-Naloxone Tablet (8mg-2mg) 1 TAB SL BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol use disorder
 
Discharge Condition:
Patient left before condition could be assessed
 
Discharge Instructions:
Patient left before paperwork could be provided
 
Followup Instructions:
___